US05196533
The first synthesis of 6,6-disubstituted tetrahydropteridines utilized nucleophilic addition of cyanide across the 7,8 double bond of 6-methyl-7,8-dihydropterin, yielding 6-cyano-6-methyltetrahydropterin (Viscontini et al., Helv. Chim. Acta, 54, 811-818 (1971)). After a number of intermediate steps, the nitrile was reduced and the final compound, 6-aminomethyl-6-methyl-5,6,7,8-tetrahydropterin, was obtained. This molecule proved to be less stable than expected, since upon oxidation the resulting quinoid dihydropterin was able to reform the starting 6-methyl-7,8-dihydropterin by loss of the amino methyl group as ammonia and formaldehyde.

reactant | cyanide | [C-]#N
reactant | 6-methyl-7,8-dihydropterin | CC1=NC=2C(NC(=NC2NC1)N)=O | C7H9N5O
product | 6-cyano-6-methyltetrahydropterin | C(#N)C1(NC=2C(NC(=NC2NC1)N)=O)C | C8H10N6O
